US04627871
22.8 g (0.1 mole) of 3-chloro-4-pivaloylamino-phenol were dissolved in 150 ml of dimethylsulphoxide. 5.6 g (0.1 mole) of powdered potassium hydroxide were added in portions at room temperature, with stirring. The mixture was subsequently stirred at room temperature for 30 minutes and 14.25 g (0.1 mole) of 2-chloro-4,6-dimethyl-pyrimidine were then added in portions. The mixture was heated to 120° C. in the course of 1 hour and subsequently stirred at this temperature for a further 5 hours. The mixture was then cooled and poured into one liter of water. The crystals were filtered off with suction and dried in air. 25.5 g (76.5% of theory) of 2-(3-chloro-4-pivaloylamino-phenoxy)-4,6-dimethylpyrimidine were obtained.

reactant | 3-chloro-4-pivaloylamino-phenol | 0.1 mole, 22.8 g | ClC=1C=C(C=CC1NC(C(C)(C)C)=O)O | C11H14ClNO2
reactant | potassium hydroxide | 0.1 mole, 5.6 g | [OH-].[K+]
reactant | 2-chloro-4,6-dimethyl-pyrimidine | 0.1 mole, 14.25 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | water | one liter | O | H2O
solvent | dimethylsulphoxide | 150 ml | CS(=O)C | C2H6OS
product | 2-(3-chloro-4-pivaloylamino-phenoxy)-4,6-dimethylpyrimidine | 25.5 g, 76.5% | ClC=1C=C(OC2=NC(=CC(=N2)C)C)C=CC1NC(C(C)(C)C)=O | C17H20ClN3O2
